US06054470
To a stirred solution of 1-(4-methoxybenzyl)-5-bromo-4-methyl-3-nitro-2-pyridone (0.23 g, 0.65 mmol) in glacial acetic acid (3 mL) was added a solution of stannous chloride dihydrate (1.0 g) in concentrated HCl (2 mL). After 3.5 hours, the reaction mixture was diluted with water, neutralized with NaHCO3, and extracted with methylene chloride. The organic phase was dried, filtered, and evaporated to give 1-(4-methoxybenzyl)-5-bromo-4-methyl-3-amino-2-pyridone (0.13 g, 0.40 mmol, 61%).

reactant | 1-(4-methoxybenzyl)-5-bromo-4-methyl-3-nitro-2-pyridone | 0.65 mmol, 0.23 g | COC1=CC=C(CN2C(C(=C(C(=C2)Br)C)[N+](=O)[O-])=O)C=C1 | C14H13BrN2O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | HCl | 2 mL | Cl | ClH
solvent | water | O | H2O
product | 1-(4-methoxybenzyl)-5-bromo-4-methyl-3-amino-2-pyridone | 0.40 mmol, 0.13 g, 61% | COC1=CC=C(CN2C(C(=C(C(=C2)Br)C)N)=O)C=C1 | C14H15BrN2O2
